US04898949
1,1-Bis(4-fluoro-3-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethene
A mixture of 1,1-bis(4-fluoro-3-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanol (3.58 g, 10.9 mmoles) and potassium hydrogen sulfate (530 mg) was heated at 195° C. for 1.5 hours. The mixture was cooled to 70° C. and chloroform (50 ml) was added. The insoluble material was removed by filtration and the filtrate evaporated. The residue was crystallized from EtOAc-Hexane to afford 3.38 g (100%) of the title compound; m.p.=138°-139° C.

reactant | 1,1-bis(4-fluoro-3-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanol | 10.9 mmoles, 3.58 g | FC1=C(C=C(C=C1)C(CC1=NN=NN1C)(O)C1=CC(=C(C=C1)F)C)C | C18H18F2N4O
reactant | potassium hydrogen sulfate | 530 mg | S(=O)(=O)(O)[O-].[K+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,1-Bis(4-fluoro-3-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethene | 3.38 g, 100% | FC1=C(C=C(C=C1)C(=CC1=NN=NN1C)C1=CC(=C(C=C1)F)C)C | C18H16F2N4
